US06441017B1
Step A: 1-(4-Cyano-3-fluorobenzyl)-2-methyl-5-imidazolecarboxaldehyde
To a solution of 4-cyano-3-fluorobenzyl bromide, as described in Example 1, Step D, (1.26 g, 5.9 mmol) in DMF (10 mL), at 0° C., was added 4-formyl-2-methylimidazole (0.650 g, 5.9 mmol) and cesium carbonate (2.9 g, 8.9 mmol). After 2 hours, the reaction mixture was poured into EtOAc—30% hexane, washed with H2O, then brine, dried over Na2SO4, filtered, and concentrated in vacuo to provide the crude product. The crude material was purified by silica gel chromatography, eluting with a gradient of CHCl3—2% to 5% MeOH, to obtain the above-titled product.

reactant | 4-cyano-3-fluorobenzyl bromide | C(#N)C1=C(C=C(CBr)C=C1)F | C8H5BrFN
reactant | 4-formyl-2-methylimidazole | 5.9 mmol, 0.650 g | C(=O)C=1N=C(NC1)C | C5H6N2O
reactant | cesium carbonate | 8.9 mmol, 2.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(4-Cyano-3-fluorobenzyl)-2-methyl-5-imidazolecarboxaldehyde | C(#N)C1=C(C=C(CN2C(=NC=C2C=O)C)C=C1)F | C13H10FN3O
